US06437146B1
To a mixture of 3-{[(1S,2R)-2-(4,5-diphenyloxazol-2-yl)-1-cyclopentyl)methyl}benzoic acid (120 mg, 0.284 mmol) and 2-aminodiphenyl ether (68 ml, 0.369 mmol) in DMF (5 ml) was added 1-hydroxybenzotrioxazole (58 mg, 0.426 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (109 mg, 0.568 mmol), and 4-dimethylaminopyridine (27 mg, 0.284 mmol). After stirring the mixture at room temperature for 2 hours, the reaction mixture was heated at 80° C. for 3 hours. Then, the resultant mixture was diluted with EtOAc (30 ml), washed with 1N hydrochloric acid, water, saturated sodium hydrogencarbonate solution, water, and brine. The resultant mixture was dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:EtOAc, 4:1 elution) to give N-(2-phenoxyphenyl)-3-{[(1S,2R)-2-(4,5-diphenyloxazol-2-yl)-1-cyclopentyl]methyl}benzamide (84.7 mg, 51%).

reactant | 3-{[(1S,2R)-2-(4,5-diphenyloxazol-2-yl)-1-cyclopentyl)methyl}benzoic acid | 0.284 mmol, 120 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@H]1[C@@H](CCC1)CC=1C=C(C(=O)O)C=CC1 | C28H25NO3
reactant | 2-aminodiphenyl ether | 0.369 mmol, 68 ml | C1=CC=C(C=C1)OC2=CC=CC=C2N | C12H11NO
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.568 mmol, 109 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.284 mmol, 27 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | N-(2-phenoxyphenyl)-3-{[(1S,2R)-2-(4,5-diphenyloxazol-2-yl)-1-cyclopentyl]methyl}benzamide | 84.7 mg, 51% | O(C1=CC=CC=C1)C1=C(C=CC=C1)NC(C1=CC(=CC=C1)C[C@H]1[C@@H](CCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C40H34N2O3
